US05686458
Step 1: Preparation of N-(2-Phenylethyl)Acetamide
12.6 ml of phenethylamine(0.1M) and 14 ml of triethylamine(0.1M) were dissolved in 100 ml of dichloro-methane; and 6.9 ml of acetyl chloride(0.1M) was dropwise added thereto while maintaining the temperature of the reaction system below 0° C., followed by stirring at a room temperature for 10 minutes. The reaction solution was washed with water, dried over anhydrous magnesium sulfate and concentrated under a reduced pressure to give 14.23 g Of the title compound as white solids.

reactant | phenethylamine | 0.1M, 12.6 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | 0.1M, 14 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.1M, 6.9 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloro-methane | 100 ml | ClCCl | CH2Cl2
product | N-(2-Phenylethyl)Acetamide | 14.23 g | C1(=CC=CC=C1)CCNC(C)=O | C10H13NO
